US07511041B2
To a solution of (Z-2-imidazo[1,2-c]quinazolin-5-yl-1-(2-thienyl)ethenol (0.06 g, 0.07 mmol) in chloroform (1.0 ml) was added a 4N solution of HCl in 1,4-dioxane (0.5 ml). The mixture was diluted with ethyl ether, and the resulting precipitate was collected by filtration, washed with ethyl ether, and dried under reduced pressure to give (Z)-2-imidazo[1,2-c]quinazolin-5-yl-1-(2-thienyl)ethenol hydrochloride (0.07 g, quantative) as a yellow solid.

reactant | Z-2-imidazo[1,2-c]quinazolin-5-yl-1-(2-thienyl)ethenol | 0.07 mmol, 0.06 g | N=1C=CN2C(=NC=3C=CC=CC3C21)\C=C(/O)\C=2SC=CC2 | C16H11N3OS
reactant | HCl | Cl | ClH
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | (Z)-2-imidazo[1,2-c]quinazolin-5-yl-1-(2-thienyl)ethenol hydrochloride | 0.07 g | Cl.N=1C=CN2C(=NC=3C=CC=CC3C21)\C=C(/O)\C=2SC=CC2 | InChI=1S/C16H11N3OS.ClH/c20-13(14-6-3-9-21-14)10-15-18-12-5-2-1-4-11(12)16-17-7-8-19(15)16;/h1-10,20H;1H/b13-10-;
